US05053509
A suspension of 3-ethoxycarbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.3 g) and (RS)-2-benzylpiperazine (1.3 g) in dimethyl sulphoxide (25 cc) is heated to approximately 90° C. with stirring for 1 hour 45 minutes. After cooling to a temperature in the region of 20° C., the reaction mixture is treated with water (100 cc) and extracted with trichloromethane (3×30 cc). The combined organic extracts are washed with water (3×30 cc), dried over magnesium sulphate, filtered and concentrated to dryness at approximately 50° C. under reduced pressure (20 kPa). After 1 recrystallization in a mixture of dimethylformamide (4 cc) and ethanol (1 cc), (RS)-8-(3-benzyl-1-piperazinyl)-3-ethoxycarbonyl-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.6 g) is obtained in the form of a yellow solid, m.p. 190° C.

reactant | 3-ethoxycarbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.3 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)F)=O | C16H12F2N2O3
reactant | (RS)-2-benzylpiperazine | 1.3 g | C(C1=CC=CC=C1)C1NCCNC1 | C11H16N2
reactant | water | 100 cc | O | H2O
solvent | dimethyl sulphoxide | 25 cc | CS(=O)C | C2H6OS
product | (RS)-8-(3-benzyl-1-piperazinyl)-3-ethoxycarbonyl-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.6 g | C(C1=CC=CC=C1)C1CN(CCN1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)C)C1)F | C27H27FN4O3
